US03981886
2-Amino-5,6-dichloro-1,3-bis[(2-bromophenylthio)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5,6-dichlorobenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 2-bromophenyl chloromethyl sulfide, the title compound is obtained.

reactant | 2-amino-5,6-dichlorobenzimidazole | NC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H5Cl2N3
reactant | 2-bromophenyl chloromethyl sulfide | ClCSC1=C(C=CC=C1)Br | C7H6BrClS
product | 2-Amino-5,6-dichloro-1,3-bis[(2-bromophenylthio)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1CSC1=C(C=CC=C1)Br)C=C(C(=C2)Cl)Cl)CSC2=C(C=CC=C2)Br | InChI=1S/C21H15Br2Cl2N3S2.ClH/c22-13-5-1-3-7-19(13)29-11-27-17-9-15(24)16(25)10-18(17)28(21(27)26)12-30-20-8-4-2-6-14(20)23;/h1-10,26H,11-12H2;1H
